US03974162
(6-Chloro-2-(p-chlorobenzylamino)-4-pyrimidinylthio)acetic ethyl ester.
A stirred mixture of 3.25 g. of 4,6-dichloro-2-(p-chlorobenzylamino)pyrimidine, 1.35 g. of ethyl mercaptoacetate and 0.95 g. of sodium bicarbonate in 50 ml. of ethanol was heated under reflux overnight. The reaction mixture was filtered. A crystalline material was deposited which amounted to 2.7 g., m.p. 122°-125°C. The analytical sample was obtained by recrystallization from ethanol, m.p. 122°-125°C.

reactant | 4,6-dichloro-2-(p-chlorobenzylamino)pyrimidine | ClC1=NC(=NC(=C1)Cl)NCC1=CC=C(C=C1)Cl | C11H8Cl3N3
reactant | ethyl mercaptoacetate | SCC(=O)OCC | C4H8O2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | (6-Chloro-2-(p-chlorobenzylamino)-4-pyrimidinylthio)acetic ethyl ester | C(C)OC(CSC1=NC(=NC(=C1)Cl)NCC1=CC=C(C=C1)Cl)=O | C15H15Cl2N3O2S
